US09399640B2
Step 7. 6-{6-Methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 6-bromo-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C29H24N3O6S (M+H)+: m/z=542.1. found: 542.0.

reactant | 6-bromo-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | BrC=1C=CC2=C(NC(CO2)=O)C1OC1=CC=CC=C1 | C14H10BrNO3
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 6-{6-Methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | CN1C(C2=C(C(=C1)C=1C=CC3=C(NC(CO3)=O)C1OC1=CC=CC=C1)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C29H23N3O6S
